US09334231B2
4-benzamido-4′-aminoazobenzene (S5)
Following the general monoacylation procedure, 4,4′-azodianiline (50 mg, 240 μmol) was treated with benzoyl choloride (26 μl, 240 μmol). Silica gel chromatography through a wide column (10% ethyl acetate in dichloromethane) provided S5 as an orange solid (44 mg, 130 μmol, 54% yield): 1H (DMSO, 400 MHz): 6.04 (s, 2H); 6.66 (d, 2H, J=8.4); 7.52-7.65 (m, 5H); 7.76 (d, 2H, J=8.8); 7.88-7.98 (m, 4H); 10.46 (s, 1H). 13C (DMSO, 100 MHz): 113.4, 120.5, 122.3, 124.9, 127.7, 128.4, 131.7, 134.8, 140.4, 142.9, 148.4, 152.5, 165.7. HRMS (ESI+): calc'd for C19H17N4O+—317.1397. found—317.1403 (MH+).

reactant | 4,4′-azodianiline | 240 μmol, 50 mg | N(=NC1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C12H12N4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-benzamido-4′-aminoazobenzene | 130 μmol, 44 mg, 54% yield | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)N=NC1=CC=C(C=C1)N | C19H16N4O
